US05286728
1.7 g of 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine and 0.55 g of triethylamine are introduced into 25 ml of methylene chloride. A solution of 0.6 g of chloroacetyl chloride is added dropwise thereto. The dark solution is left to stand overnight, diluted with 50 ml of methylene chloride, washed with 1N sodium hydroxide solution, dried over magnesium sulfate and concentrated by evaporation. The crystallisate so obtained is recrystallised from acetone, yielding 1-(4-chloroacetylaminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine having a melting point of 146°-147°.

reactant | 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | 1.7 g | NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H22ClN3O
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.6 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chloroacetylaminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | ClCC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C21H23Cl2N3O2
